US20010053779A1
A solution comprising 2-nitro-1,4-phenylenediamine (21.0 g, 137 mmol) in ethanol (350 mL) and 4.0M hydrogen chloride in dioxane (30.8 mL, 123 mmol) was stirred at room temperature for 15 minutes and then diethyl ether (1 L) was added to give a precipitate. The precipitate was collected by filtration, washed with additional diethyl ether and dried in vacuo to provide 2-nitro-1,4-phenylenediamine hydrochloride (23.3 g, 100% yield).

reactant | 2-nitro-1,4-phenylenediamine | 137 mmol, 21.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)N)N | C6H7N3O2
reactant | dioxane | 123 mmol, 30.8 mL | O1CCOCC1 | C4H8O2
reactant | diethyl ether | 1 L | C(C)OCC | C4H10O
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 2-nitro-1,4-phenylenediamine hydrochloride | 23.3 g, 100% yield | Cl.[N+](=O)([O-])C1=C(C=CC(=C1)N)N | InChI=1S/C6H7N3O2.ClH/c7-4-1-2-5(8)6(3-4)9(10)11;/h1-3H,7-8H2;1H
